US05116402
Preparation of trichloro-acetaldehyde-dibutyl-acetal
Into an apparatus supplied with a Dean-Stark water separator 7 g of chloral hydrate, 10 g of butyl alcohol, 0.1 g of 4-methyl-benzene-sulphonic acid and 50 ml of benzene are weighed. The mixture is heated on a water-bath and the water separation is continued for 10 hours. The benzene is washed with water and sodium hydrogen carbonate, then distilled off and the product is vacuum distilled.

reactant | water | O | H2O
reactant | chloral hydrate | 7 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | butyl alcohol | 10 g | C(CCC)O | C4H10O
reactant | 4-methyl-benzene-sulphonic acid | 0.1 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | trichloro-acetaldehyde-dibutyl-acetal | C(CCC)OC(C(Cl)(Cl)Cl)OCCCC | C10H19Cl3O2
